US04937268
2-[2-[2-(Phenylmethoxy)ethoxy]ethyl]pyridine
Sodium hydride (80% dispersion in oil, 1.68 g) was added portionwise to a solution of 2-pyridineethanol (6.88 g) in 1,2-dimethoxyethane (50 ml) and stirred under nitrogen for 18 h at room temperature. A solution of 2-(phenylmethoxy)ethanol methanesulphonate (8.25 g) in 1,2-dimethoxyethane (100 ml) was added and the mixture stirred at room temperature for 7 h, then poured into water (400 ml) and extracted with diethyl ether (3×200 ml). The ethereal extracts were washed with 2N hydrochloric acid (250 ml). The aqueous phase was re-extracted with diethyl ether (100 ml) and the aqueous phase carefully basified with 8% sodium bicarbonate to pH8. Extraction with diethyl ether (2×200 ml) and drying and evaporation in vacuo of the organic extracts gave an oil. Purification by FCC eluting with System F (4.1→1.1) gave the title compound (2.71 g) as an oil. T.l.c. (diethyl ether) Rf 0.54

reactant | Sodium hydride | 1.68 g | [H-].[Na+]
reactant | 2-pyridineethanol | 6.88 g | N1=C(C=CC=C1)CCO | C7H9NO
reactant | 2-(phenylmethoxy)ethanol methanesulphonate | 8.25 g | CS(=O)(=O)OCCOCC1=CC=CC=C1 | C10H14O4S
reactant | water | 400 ml | O | H2O
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 2-[2-[2-(Phenylmethoxy)ethoxy]ethyl]pyridine | 2.71 g | C1(=CC=CC=C1)COCCOCCC1=NC=CC=C1 | C16H19NO2
